US08975265B2
{1-[4-(6-chloro-8-cyano-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester
300 mg (0.54 mmol) {1-[4-(8-Bromo-6-chloro-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester, intermediate example Int-400-12, 3.5 mg (0.054 mmol) zinc, 44.3 mg (0.054 mmol) 1,1 bis(diphenylphosphino)-ferrocenedichloropalladium(II) and 127.4 mg (1.08 mmol) zinc cyanide in 4.5 mL N,N-dimethylacetamide (degassed) were heated in the microwave at 110° C. for three hours. Due to an incomplete reaction additional zinc, catalyst and zinc cyanide were added, and stirring was continued at 150° C. for one hour. The reaction mixture was diluted with ethyl acetate and washed with water/saturated ammonium chloride. The organic phase was separated, dried (sodium sulfate), filtrated and the solvent was removed. The crude product (530 mg >100%) was used in the next step without further purification.

reactant | {1-[4-(8-Bromo-6-chloro-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 0.54 mmol, 300 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2Br)Cl)C1C1=CC=CC=C1)=O | C28H27BrClN3O2
reactant | N,N-dimethylacetamide | 4.5 mL | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 0.054 mmol, 3.5 mg | [Zn] | Zn
catalyst | zinc cyanide | 1.08 mmol, 127.4 mg | [C-]#N.[Zn+2].[C-]#N
product | {1-[4-(6-chloro-8-cyano-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2C#N)Cl)C1C1=CC=CC=C1)=O | C29H27ClN4O2
